US05091533
A mixture of 2-hydroxy-5-benzyloxyacetophenone (93 g, 380 mmoles), p-methoxyphenacyl bromide (88 g, 384 mmoles) and potassium carbonate (106 g, 768 mmoles) in acetone (1.5 L) was refluxed for 46 hours. The reaction mixture was cooled and filtered. The filtrate was evaporated in vacuo. The residue was chromatographed on silica gel using 10% ethylacetate in hexane as eluent to yield (127 g, 89%) of 2-(p-methoxybenzyl)-3-methyl-5-benzyloxybenzofuran, E48.

reactant | 2-hydroxy-5-benzyloxyacetophenone | 380 mmoles, 93 g | CC(=O)C1=C(C=CC(=C1)OCC2=CC=CC=C2)O | C15H14O3
reactant | p-methoxyphenacyl bromide | 384 mmoles, 88 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 768 mmoles, 106 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.5 L | CC(=O)C | C3H6O
product | 2-(p-methoxybenzyl)-3-methyl-5-benzyloxybenzofuran | 127 g, 89% | COC1=CC=C(CC=2OC3=C(C2C)C=C(C=C3)OCC3=CC=CC=C3)C=C1 | C24H22O3
